Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.45406534686
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],6.738425550340001
[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.01728373432
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6],1.81422455975
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],0.36613348162
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],4.44198056632
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-5.042403329830001
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.1010547972799998
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:10]=[C:11]([H:12])[H:13],1.36658086949
[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-0.155885108879
[H:6].[O:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.81031530011
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:12])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:11]#[C:13][H:14],1.58053486526
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.22049288374
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-3.95128900462
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2][C@@:3]([H:4])([O:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],5.05437961009
[C:2](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],0.20455802117
[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],6.27475530718
[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5],0.3937737088
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.74863767988
[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.44927826271
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.4496742648500005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],0.8892899709559999
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:10]([H:11])([H:12])[H:13],6.7162062240900005
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-1.50479605965
[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13],5.14492200873
[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.74039912227
